US06849380B2
Trehalose type oligosaccharides include, e.g., succharose and trehalose, glycosides include, e.g., alkyl glycoside, phenol glycoside, and mustard oil glycoside, and sugar alcohols include, e.g., D- and L-arabitol, ribitol, xylitol, D- and L-sorbitol, D- and L-mannitol, D- and L-iditol, D- and L-talitol, dulicitol, and allodulcitol. In addition, maltitol obtained by hydrogenation of disaccharide and the reductant (reduced starch syrup) obtained by hydrogenation of oligosaccharide are preferably used.

reactant | Trehalose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
reactant | ribitol | C([C@H](O)[C@H](O)[C@H](O)CO)O | C5H12O5
reactant | xylitol | C([C@H](O)[C@@H](O)[C@H](O)CO)O | C5H12O5
reactant | allodulcitol | C([C@H]([C@H]([C@H]([C@H](CO)O)O)O)O)O | C6H14O6
product | maltitol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O | C12H24O11
